US08536338B2
Step 1: Preparation of 6-bromo-2-iodopyridin-3-ol
N-iodosuccinimide (6.47 g, 28.7 mmol) was added to a stirring solution of 6-bromopyridin-3-ol (5 g, 28.7 mmol) in MeOH (144 mL) at 45° C. It was allowed to stir for 3 hours. The mixture was concentrated and triturated with Et2O. The precipitate was discarded and the filtrate was concentrated and triturated with dichloromethane to give the expected product, 1 6-bromo-2-iodopyridin-3-ol (3150 mg, 10.50 mmol, 37% yield) by LCMS and NMR. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.12 (1H, s), 7.42 (1H, d, J=8.28 Hz), 7.10 (1H, d, J=8.28 Hz). LC-MS retention time: 1.27 min; m/z (MH+): 300, 302. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters SunFire 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | N-iodosuccinimide | 28.7 mmol, 6.47 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 6-bromopyridin-3-ol | 28.7 mmol, 5 g | BrC1=CC=C(C=N1)O | C5H4BrNO
solvent | MeOH | 144 mL | CO | CH4O
product | 6-bromo-2-iodopyridin-3-ol | 10.50 mmol, 3150 mg, 37% yield | BrC1=CC=C(C(=N1)I)O | C5H3BrINO
